### PR TITLE
Class DL of integrable supremum

### LINKED ISSUE #280: A process with integrable supremum is of class DL.
https://remydegenne.github.io/brownian-motion/blueprint/sect0004.html#lem:Integrable.classDL

### PR DESCRIPTION
**Pull request by WojciechCzernous**
null

Closes #280

### CODE REVIEW

File: BrownianMotion/StochasticIntegral/UniformIntegrable.lean [hunk 1]
```diff
@@ -69,6 +86,90 @@ lemma uniformIntegrable_of_dominated_singleton [NormedAddCommGroup E] {X : ι 
...
+  refine hfin.mono ?_
+  intro x hx
+  have hne : ‖f x‖ₑ ≠ ∞ := by
+    by_contra htop
+    have hpow : (∞ : ℝ≥0∞) ^ p.toReal = ∞ := ENNReal.top_rpow_of_pos hpos
+    have : f_to_p x = ∞ := by simpa [f_to_p, htop] using hpow
+    exact hx this
+  exact lt_of_le_of_ne le_top hne
+
+lemma uniformIntegrable_of_dominated_enorm_singleton [NormedAddCommGroup E] {X : ι → Ω → E}
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/UniformIntegrable.lean]: So for the sake of proving `Integrable.classDL`, I think you just need this theorem for `p = 1`, and when `p = 1`, you can use [MeasureTheory.mem_L1_toReal_of_lintegral_ne_top](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/L1Space/Integrable.html#MeasureTheory.mem_L1_toReal_of_lintegral_ne_top) and [MeasureTheory.ae_lt_top'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Integral/Lebesgue/Markov.html#MeasureTheory.ae_lt_top') to simplify your code.

```
lemma uniformIntegrable_of_dominated_enorm_singleton [NormedAddCommGroup E] {X : ι → Ω → E}
    {Y : Ω → ℝ≥0∞} (hY : MemLp Y 1 μ)
    (mX : ∀ i, AEStronglyMeasurable (X i) μ) (hX : ∀ i, ∀ᵐ ω ∂μ, ‖X i ω‖ₑ ≤ Y ω) :
    UniformIntegrable X 1 μ := by
  have : ∫⁻ x, Y x ∂μ ≠ ⊤ := by
    simpa [eLpNorm_one_eq_lintegral_enorm, enorm_eq_self] using ne_of_lt hY.2
  have hY_fin : ∀ᵐ ω ∂μ, Y ω < ∞ := ae_lt_top' hY.1.aemeasurable this
  have hY_real : MemLp (fun ω => (Y ω).toReal) 1 μ := mem_L1_toReal_of_lintegral_ne_top
    hY.1.aemeasurable this
  refine uniformIntegrable_of_dominated_singleton (by simp) (by simp) hY_real mX fun i => ?_
  filter_upwards [hX i, hY_fin] with ω hbound hfin
  exact norm_le'_of_enorm_le hfin.ne hbound
```


As you proved a more general version for `1 ≤ p < ∞`, I am not sure 
1. whether this will be a helpful lemma,
2. whether my approach above still works.

File: BrownianMotion/StochasticIntegral/ClassD.lean [hunk 2]
```diff
@@ -386,11 +386,47 @@ lemma isStable_classDL [OrderBot ι] [TopologicalSpace ι] [OrderTopology ι] [M
...
-
 lemma _root_.MeasureTheory.Integrable.classDL [Nonempty ι] [MeasurableSpace ι]
-    (hX : ∀ t, Integrable (fun ω ↦ ⨆ s ≤ t, ‖X t ω‖ₑ) P) :
+  [TopologicalSpace ι] [OrderTopology ι] [BorelSpace ι]
+  [SecondCountableTopology ι]
+    (hX1 : ProgMeasurable 𝓕 X)
+    (hX2 : ∀ t, Integrable (fun ω ↦ ⨆ s ≤ t, ‖X s ω‖ₑ) P) :
     ClassDL X 𝓕 P := by
-  sorry
+  classical
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/ClassD.lean]: There is no need to open classical if you are not going to use the classical logic.
